US04025537
A mixture of 3.12 g (0.02 mole) ethyl 2-acetyl-2-butenoate and 3.56 g (0.02 mole) N-bromosuccinimide in 50 ml of carbon tetrachloride was heated at reflux for 19 hours. After cooling, the insoluble succinimide was removed by filtration and the solution concentrated by rotary evaporation. Distillation of the crude product gave 0.73 g (24%) of ethyl 2-methyl-3-furoate, bp 87°-9° C. (20 mm).

reactant | ethyl 2-acetyl-2-butenoate | 0.02 mole, 3.12 g | C(C)(=O)C(C(=O)OCC)=CC | C8H12O3
reactant | N-bromosuccinimide | 0.02 mole, 3.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-methyl-3-furoate | 0.73 g, 24% | CC=1OC=CC1C(=O)OCC | C8H10O3
